US04119710
1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-cyclopropylamino-ethanol,
m.p. of the hydrochloride: 188°-190° C. (decomp.), was prepared from 4'-amino-3'-cyano-2-cyclopropylamino-5'-fluoroacetophenone analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-cyano-2-cyclopropylamino-5'-fluoroacetophenone | NC1=C(C=C(C=C1F)C(CNC1CC1)=O)C#N | C12H12FN3O
product | 1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-cyclopropylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC1CC1)O)C#N | C12H14FN3O
